US06780996B2
A mixture of 4-benzyloxy-3-fluoroaniline (6.06 g, 27.9 mmol) (U.S. Pat. No. 5,622,967) and ethyl (ethoxymethylene)cyanoacetate (5.08 g, 30.0 mmol) is heated at 120° C. for 45 minutes then cooled to room temperature. This solid is added in portions to a 3:1 mixture of diphenyl ether:biphenyl at 245° C. This mixture is heated at 245° C. for 3 hours then cooled and the solids are collected by filtration, washing with hexane and diethyl ether to provides 2.60 g of 6-benzyloxy-7-fluoro-4-oxo-1, 4-dihydro-3-quinolinecarbonitrile, mp>250° C.

reactant | 4-benzyloxy-3-fluoroaniline | 27.9 mmol, 6.06 g | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)F | C13H12FNO
reactant | ethyl (ethoxymethylene)cyanoacetate | 30.0 mmol, 5.08 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
product | 6-benzyloxy-7-fluoro-4-oxo-1, 4-dihydro-3-quinolinecarbonitrile | 2.60 g | C(C1=CC=CC=C1)OC=1C=C2C(C(=CNC2=CC1F)C#N)=O | C17H11FN2O2
